US05705669
87 g (1.90 mol) of absolute ethanol are cooled to -15° C. under a nitrogen atmosphere. 67 g (0.26 mol) of bis-(4-fluorophenyl)chlorophosphine are then added dropwise at this temperature in 50 minutes with vigorous stirring. 5.2 g (0.31 mol) of ammonia gas are then introduced at this temperature. The mixture is then further stirred until room temperature is reached and stirred for a further 16 hours. The mixture is then filtered by suction and rinsed out with ethanol. The filtrate is freed from ethanol and excess ammonia in vacuo. The remaining residue is distilled at 0.45 mbar at an overhead temperature of 102° C. 58 g of ethyl bis-(4-fluorophenyl)-phosphinite are obtained. This corresponds to a yield of 84% of theory.

reactant | ethanol | 1.90 mol, 87 g | C(C)O | C2H6O
reactant | bis-(4-fluorophenyl)chlorophosphine | 0.26 mol, 67 g | FC1=CC=C(C=C1)P(Cl)C1=CC=C(C=C1)F | C12H8ClF2P
reactant | ammonia | 0.31 mol, 5.2 g | N | H3N
product | ethyl bis-(4-fluorophenyl)-phosphinite | 58 g, yield of 84% | FC1=CC=C(C=C1)P(OCC)C1=CC=C(C=C1)F | C14H13F2OP
